US04182714
Following a procedure similar to that described in Example 1A but employing 3.1 g of 2-(1-ethyl-2-methyl-3-indolylcarbonyl)benzoic acid and 2.3 g of methyl 2-anilinobenzoate there was obtained 0.4 g of 3-(1-ethyl-2-methyl-3-indolyl)-3-[N-(2-methoxycarbonylphenyl)-N-phenylamino]phthalide, m.p. 80°-115° C. A toluene solution of the product contacted with acidic clay or phenolic resin developed a pink-colored image.

reactant | 2-(1-ethyl-2-methyl-3-indolylcarbonyl)benzoic acid | 3.1 g | C(C)N1C(=C(C2=CC=CC=C12)C(=O)C1=C(C(=O)O)C=CC=C1)C | C19H17NO3
reactant | methyl 2-anilinobenzoate | 2.3 g | N(C1=CC=CC=C1)C1=C(C(=O)OC)C=CC=C1 | C14H13NO2
product | 3-(1-ethyl-2-methyl-3-indolyl)-3-[N-(2-methoxycarbonylphenyl)-N-phenylamino]phthalide | 0.4 g | C(C)N1C(=C(C2=CC=CC=C12)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=CC=C1)C1=C(C=CC=C1)C(=O)OC)C | C33H28N2O4
